US08026257B2
Methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-diazoacetate.
To a solution of methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetate (1.95 g, 5.49 mmol) and 4-acetamidobenzenesulfonyl azide (1.52 g, 6.32 mmol) in acetonitrile (11 mL) at 0° C. was added 1,8-Diazabicyclo[5.4.0]undec-7-ene (1.04 mL, 6.87 mmol) dropwise over 20 min. The ice bath was removed and stirring continued at room temperature for 1 h. The reaction was partitioned between water and ethyl acetate. The organics were washed with saturated sodium bicarbonate, dried over sodium sulfate, and concentrated. The resulting residue was purified by column chromatography (8%→25% ethyl acetate/n-hexane) to give 1.39 g (66%) as a yellow oil. 1H-NMR (CDC13, 500 MHz) δ 8.01 (s, 1H), 7.79 (d, J=1.5 Hz, 1H), 7.45 (d, J=1.8 Hz, 1H), 5.64 (s, 2H), 3.89 (s, 3H), 3.64 (t, J=8.2 Hz, 2H), 0.93 (t, J=8.4 Hz, 2H), −0.03 (s,9H; 13C NMR (126 MHz, CDCl3) δ ppm 165.9, 143.2, 128.7, 125.3, 123.1, 122.7, 122.5, 116.5, 116.4, 81.8, 67.9, 52.1, 17.8, −1.4.

reactant | methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)acetate | 5.49 mmol, 1.95 g | ClC1=CC2=CN(N=C2C(=C1)CC(=O)OC)COCC[Si](C)(C)C | C16H23ClN2O3Si
reactant | 4-acetamidobenzenesulfonyl azide | 6.32 mmol, 1.52 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 6.87 mmol, 1.04 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 11 mL | C(C)#N | C2H3N
product | Methyl 2-(5-chloro-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)-2-diazoacetate | ClC1=CC2=CN(N=C2C(=C1)C(C(=O)OC)=[N+]=[N-])COCC[Si](C)(C)C | C16H21ClN4O3Si
